US07906549B2
(2-methoxy-4-propylphenyl)methanol
Red-Al/toluene solution (66.5% content, 2.05 g) was slowly added to a tetrahydrofuran (3 mL) solution of the compound (1.00 g) prepared in Example 43 at an internal temperature of 5° C., followed by stirring at an internal temperature of about 35° C. for about 2.5 hours. Methanol (0.5 mL) was added to the reaction solution at an internal temperature of 9° C. to stop the reaction. The reaction solution was poured into a 50% aqueous potassium sodium tartrate tetrahydrate solution, and extracted with ethyl acetate. The organic layer was successively washed with water and brine, dried, and concentrated, to thereby obtain the title compound (0.91 g) having the following physical properties.

reactant | Red-Al toluene | 2.05 g | COCCO[AlH2-]OCCOC.[Na+].C1(=CC=CC=C1)C
reactant | tetrahydrofuran | 3 mL | O1CCCC1 | C4H8O
reactant | potassium sodium tartrate tetrahydrate | O.O.O.O.C(=O)([O-])C(O)C(O)C(=O)[O-].[Na+].[K+]
solvent | Methanol | 0.5 mL | CO | CH4O
product | (2-methoxy-4-propylphenyl)methanol | 0.91 g | COC1=C(C=CC(=C1)CCC)CO | C11H16O2
